* tb_pex_tt - loop gain, C-extracted DUT, tt, 100u/100p
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice ss
.include /foss/designs/ldo_project/layout/ldo_pex_brk.spice

Vdd  vdd 0 1.8
Ib   vdd vbias 10u
Vref vref 0 0.9
Vlen load_en 0 0
X1 vref vbias vldo load_en vdd 0 fbtop_x ldo_pex_brk
CL  vldo 0 100p
IL  vldo 0 100u
L3  vldo fbtop_x 1G
Cinj fbtop_x nin 1G
Vin nin 0 0 ac 1

.nodeset v(vldo)=1.5 v(fbtop_x)=1.5
.option rshunt=1e12
.temp 125
.op
.ac dec 20 1 1G

.control
run
setplot op1
print v(vldo) v(fbtop_x) v(vbias) v(vdd) i(vdd)
setplot ac1
let t    = v(vldo)/v(fbtop_x)
let t_db = db(t)
let t_ph = 180/pi*cph(t)
meas ac t0    find t_db at=1
meas ac fu    when t_db=0 cross=1
meas ac ph_fu find t_ph when t_db=0 cross=1
meas ac floor find t_db at=800meg
set hcopydevtype=svg
hardcopy bode_pex_ss125_100u.svg t_db t_ph
.endc
.end
